US07271274B2
To a solution of 2,6-di-tert-butyl-4-(1-{3,5-di-tert-butyl-4-[3-(2,2-dimethyl-[1,3]dioxo-lan-4(R)-yl)-propoxy]-phenylsulfanyl}-1-methyl-ethylsulfanyl)-phenol (Ex-11, 230 mg, 0.35 mmol) in 20 ml MeOH, was added 1.0 N HCl dropwise until the mixture turned cloudy. Then small amount of MeOH was added to the mixture until it became clear. The mixture was stirred at room temperature, and HPLC indicated that the reaction completed within 2 hours. The mixture was neutralized with 5N KOH and extracted with EtOAc. The combined organic phase was washed with water, dried over MgSO4, and concentrated to dryness. The residue was purified by silica gel column chromatography to give 0.2 g (93%) 5-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-pentane-1,2(S)-diol as a white solid, mp 68–71° C. 1H-NMR (CDCl3) δ 7.53 (s, 2H), 7.45 (s, 2H), 5.36(s, 1H), 3.67–3.79 (m, 4H), 3.46–3.52 (m, 1H), 1.91–2.17 (m, 4H), 1.42–1.45 (m, 42H). MS m/z: 636.4119 ([M+NH4]+, 20%). Anal. calcd for C36H58O4S2: C, 69.86; H, 9.44; S, 10.36; found: C, 70.10; H, 9.15, S, 10.13.

reactant | 2,6-di-tert-butyl-4-(1-{3,5-di-tert-butyl-4-[3-(2,2-dimethyl-[1,3]dioxo-lan-4(R)-yl)-propoxy]-phenylsulfanyl}-1-methyl-ethylsulfanyl)-phenol | 0.35 mmol, 230 mg | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OCCC[C@H]1OC(OC1)(C)C)C(C)(C)C)C(C)(C)C)O | C39H62O4S2
reactant | HCl | 1.0 N | Cl | ClH
reactant | KOH | 5N | [OH-].[K+]
solvent | MeOH | 20 ml | CO | CH4O
product | 5-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-pentane-1,2(S)-diol | 0.2 g, 93% | C(C)(C)(C)C1=C(OCCC[C@@H](CO)O)C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)(C)C | C36H58O4S2
